US04061656
A solution of 23.0 g. (0.09 mol) of 2,4-diethoxycarbonyl-3-methyl-5-aminothiophene in 250 ml. of acetic anhydride was heated to 100° C. for 1.5 hrs. The resulting mixture was cooled in an ice bath and the precipitated crystals were filtered to yield 2,4-diethoxycarbonyl-3-methyl-5-acetylamino-thiophene, m.p. 130°-131° C.

reactant | 2,4-diethoxycarbonyl-3-methyl-5-aminothiophene | 0.09 mol | C(C)OC(=O)C=1SC(=C(C1C)C(=O)OCC)N | C11H15NO4S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-diethoxycarbonyl-3-methyl-5-acetylamino-thiophene | C(C)OC(=O)C=1SC(=C(C1C)C(=O)OCC)NC(C)=O | C13H17NO5S
